US05998439
According to the method of P. G. McDougal, et al., J. Org. Chem., 51, 3388-3390 (1986), combine hexane washed sodium hydride (20 mmol) and tetrahydrofuran (40 mL). Slowly add 2,5-furandimethanol (20 mmol). After gas evolution ceases, add t-butyldimethylsilyl chloride (20 mmol) and stir vigorously. After about 1 hour, pour the reaction mixture into diethyl ether and extract with a saturated aqueous solution of sodium carbonate, water, and then brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give 5-(t-butyldimethylsilyloxy)methyl-2-hydroxymethylfuran. Combine 1-(t-butoxycarbonyl)-4-(1H-benzimidazole-2-carbonyl)piperidine (10 mmol), 5-(t-butyldimethylsilyloxy)-methyl-2-hydroxymethylfuran (10 mmol), and triphenylphosphine (10 mmol) in tetrahydrofuran (100 mL). Add diethyl azodicarboxylate (10 mmol). After 18 hours, evaporate the reaction mixture in vacuo to give a residue. Partition the residue between ethyl acetate and water. Separate the organic layer and extract with water and brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel to give 1-(t-butoxycarbonyl)-4-(1-(5-(t-butyldimethylsilyloxy)-methylfur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine.

reactant | hexane | CCCCCC | C6H14
reactant | sodium hydride | 20 mmol | [H-].[Na+]
reactant | 2,5-furandimethanol | 20 mmol | O1C(=CC=C1CO)CO | C6H8O3
reactant | t-butyldimethylsilyl chloride | 20 mmol | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 5-(t-butyldimethylsilyloxy)methyl-2-hydroxymethylfuran | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(O1)CO | C12H22O3Si
